US08445501B2
1-(3-Bromo-4-cyclopropylmethoxy-phenyl)-ethanone
Starting from 1-(3-bromo-4-hydroxy-phenyl)-ethanone prepared according to literature (Heravi et al, Tetrahedron Letters 2005, 46, 8959) and bromomethyl-cyclopropane the title compound is obtained as colorless solid.

reactant | 1-(3-bromo-4-hydroxy-phenyl)-ethanone | BrC=1C=C(C=CC1O)C(C)=O | C8H7BrO2
reactant | bromomethyl-cyclopropane | BrCC1CC1 | C4H7Br
product | 1-(3-Bromo-4-cyclopropylmethoxy-phenyl)-ethanone | BrC=1C=C(C=CC1OCC1CC1)C(C)=O | C12H13BrO2
